US07531532B2
4-(4-Amino-3-fluorophenoxy)-6-chloropyrimidine
After dissolving 4-chloro-6-(3-fluoro-4-nitrophenoxy)pyrimidine (9.726 g) in ethanol (100 ml)-N,N-dimethylformamide (100 ml) at room temperature, water (50 ml), ammonium chloride (20 g) and electrolytic iron powder (10 g) were added and the mixture was stirred for 1 hour at 100° C. The reaction mixture was cooled to room temperature. The insoluble portion was removed using celite prior to washing with ethyl acetate. The filtrate was concentrated under reduced pressure, and then the residue was partitioned between ethyl acetate and water. The separated organic layer was washed with water and brine in that order and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was dried under reduced pressure to provide the title compound (8.204 g, 95%) as pale yellow crystals.

reactant | 4-chloro-6-(3-fluoro-4-nitrophenoxy)pyrimidine | 9.726 g | ClC1=NC=NC(=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C10H5ClFN3O3
reactant | water | 50 ml | O | H2O
reactant | ammonium chloride | 20 g | [Cl-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | iron | 10 g | [Fe] | Fe
product | 4-(4-Amino-3-fluorophenoxy)-6-chloropyrimidine | 8.204 g, 95% | NC1=C(C=C(OC2=NC=NC(=C2)Cl)C=C1)F | C10H7ClFN3O
